US07312234B2
AMD9594: Preparation of 1-(4-{[(1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzyl)-3-benzyl-urea (hydrobromide salt)
To a cold (0° C.) solution of (4-aminomethyl-benzyl)-(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine (0.130 g, 0.33 mmol) in CH2Cl2 (3.5 mL) was added benzyl isocyanate (45 μL, 0.36 mmol) and the resultant solution was stirred for 100 minutes. The cooling bath was removed and the mixture was concentrated under reduced pressure. Purification of the crude material by column chromatography on silica gel (25:1:1 CH2Cl2—CH3OH—NH4OH) followed by radial chromatography on silica gel (1 mm plate, 25:1:1 CH2Cl2—CH3OH—NH4OH) provided the free base of the title compound (0.047 g, 28%) as a white solid.

reactant | (4-aminomethyl-benzyl)-(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine | 0.33 mmol, 0.130 g | NCC1=CC=C(CN(C2CCCC=3C=CC=NC23)CC2=NC3=C(N2)C=CC=C3)C=C1 | C25H27N5
reactant | benzyl isocyanate | 0.36 mmol, 45 μL | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | CH2Cl2 | 3.5 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-{[(1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzyl)-3-benzyl-urea | 0.047 g, 28% | N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CC2=CC=C(CNC(=O)NCC1=CC=CC=C1)C=C2 | C33H34N6O
